US08754100B2
Synthesis of 5-chloro-2-(2-trifluoromethylphenyl)valeric acid chloride
5-Chloro-2-(2-trifluoromethylphenyl)valeric acid obtained in Preparation Example 2-3 (500 mg) was dissolved in tetrahydrofuran (9 mL). Dimethylformamide (0.1 ml) and oxalyl chloride (184 μL) were added at 0° C. and the reaction was initiated at room temperature. After 1.5 hours, concentration under reduced pressure gave an oil (532 mg), which was used directly for the next reaction as a crude product.

reactant | 5-Chloro-2-(2-trifluoromethylphenyl)valeric acid | ClCCCC(C(=O)O)C1=C(C=CC=C1)C(F)(F)F | C12H12ClF3O2
reactant | Dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 184 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | tetrahydrofuran | 9 mL | O1CCCC1 | C4H8O
product | 5-chloro-2-(2-trifluoromethylphenyl)valeric acid chloride | 532 mg | ClCCCC(C(=O)Cl)C1=C(C=CC=C1)C(F)(F)F | C12H11Cl2F3O
